US07943622B2
Step 3. Synthesis tert-butyl 4-(2-phenyloxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate
[1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (6.7 mg, 0.0082 mmol) was added to a mixture of tert-butyl 4-(2-chlorooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (69.5 mg, 0.164 mmol), benzeneboronic acid (40 mg, 0.33 mmol) and sodium carbonate (35 mg, 0.33 mmol) in toluene (4 mL), 1,4-dioxane (1 mL), and water (1 mL). The reaction mixture was heated to 80° C. overnight. Upon cooling to room temperature, the reaction mixture was filtered through Celite®, concentrated under reduced pressure, and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 44.8 mg (47%) of the TFA salt of the desired product. LC-MS: RT=8.49 min, [M+H]+=465.0.

reactant | dichloromethane | 0.0082 mmol, 6.7 mg | ClCCl | CH2Cl2
reactant | tert-butyl 4-(2-chlorooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.164 mmol, 69.5 mg | ClC=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C19H23ClN4O5
reactant | benzeneboronic acid | 0.33 mmol, 40 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.33 mmol, 35 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | tert-butyl 4-(2-phenyloxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | C1(=CC=CC=C1)C=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C25H28N4O5
